US04931444
A mixture of 37 parts of 4,5-dihydro-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4,4-dimethyl-2-thiazolamine, 5 parts of a sodium hydride dispersion 50% and 376 parts of N,N-dimethylformamide was stirred for 2 hours at 70° C. After cooling to room temperature, 14.1 parts of iodomethane were added slowly to the reaction mixture. The whole was stirred for 1 hour at room temperature. The reaction mixture was diluted with water. The precipitated product was filtered off, washed with water and 2-propanol and purified by column chromatography (HPLC) over silica gel using a mixture of dichloromethane and methanol (96:4 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was further purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume). The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone, yielding 4-[4-(4-methoxyphenyl)-1-piperazinyl]-N-(3,4,4 -trimethyl-2-thiazolidinylidene)-benzenamine (int. 9). The second fraction was collected and boiled in 2-propanol. After cooling, the product was filtered off and dried, yielding 19.5 parts (51.0%) of 4,5-dihydro-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-N,4,4-trimethyl-2-thiazolamine; mp. 166.6° C. (int. 10)

reactant | 4,5-dihydro-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4,4-dimethyl-2-thiazolamine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC=1SCC(N1)(C)C | C22H28N4OS
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | iodomethane | IC | CH3I
solvent | water | O | H2O
product | 4-[4-(4-methoxyphenyl)-1-piperazinyl]-N-(3,4,4 -trimethyl-2-thiazolidinylidene)-benzenamine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N=C1SCC(N1C)(C)C | C23H30N4OS
